US09062032B2
By using 3.42 g of methyl 6-methylpyrazine-2-carboxylate and 4.40 g of NBS, a bromination reaction was performed by the method similar to Preparation Example 62. Thereafter, by using 10 mL of morpholine as amine, the reaction similar to Preparation Example 9 was performed, thereby obtaining 987 mg of methyl 6-(morpholin-4-ylmethyl)pyrazine-2-carboxylate.

reactant | methyl 6-methylpyrazine-2-carboxylate | 3.42 g | CC1=CN=CC(=N1)C(=O)OC | C7H8N2O2
reactant | NBS | 4.40 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | morpholine | 10 mL | N1CCOCC1 | C4H9NO
product | methyl 6-(morpholin-4-ylmethyl)pyrazine-2-carboxylate | 987 mg | N1(CCOCC1)CC1=CN=CC(=N1)C(=O)OC | C11H15N3O3
